US08389764B2
tert-Butyl(S)-6-tert-butoxycarbonylamino-2-[3-((R)-1-carboxy-2-cyclohexyl-ethyl)-ureido]-hexanoate
Commercial tert-butyl(S)-2-amino-6-tert-butoxycarbonylaminohexanoate hydrochloride (1.95 g, 5.75 mmol) was mixed in 30 ml of DMF with NEt3 (0.8 ml, 5.754 mmol) and 1,1′-carbonyldiimidazole (0.933 g, 5.754 mmol) and stirred at RT for 30 min. Then (R)-2-amino-3-cyclohexylpropanoic acid trifluoroacetate (1.64 g, 5.754 mmol) and NEt3 (1.6 ml, 11.5 mmol) were added, and the mixture was heated at 80° C. until the imidazolide formed as intermediate was completely converted. The product was purified by flash chromatography on silica gel (CH2Cl2/MeOH gradient). Yield: 2.1 g (73%) of tert-butyl(S)-6-tert-butoxycarbonylamino-2-[3-((R)-1-carboxy-2-cyclohexylethyl)-ureido]-hexanoate.

reactant | tert-butyl(S)-2-amino-6-tert-butoxycarbonylaminohexanoate hydrochloride | 5.75 mmol, 1.95 g | Cl.N[C@H](C(=O)OC(C)(C)C)CCCCNC(=O)OC(C)(C)C
reactant | NEt3 | 5.754 mmol, 0.8 ml | CCN(CC)CC | C6H15N
reactant | 1,1′-carbonyldiimidazole | 5.754 mmol, 0.933 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (R)-2-amino-3-cyclohexylpropanoic acid trifluoroacetate | 5.754 mmol, 1.64 g | FC(C(=O)O)(F)F.N[C@@H](C(=O)O)CC1CCCCC1
reactant | NEt3 | 11.5 mmol, 1.6 ml | CCN(CC)CC | C6H15N
reactant | imidazolide | [N-]1C=NC=C1
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | tert-Butyl(S)-6-tert-butoxycarbonylamino-2-[3-((R)-1-carboxy-2-cyclohexyl-ethyl)-ureido]-hexanoate | C(C)(C)(C)OC(=O)NCCCC[C@@H](C(=O)OC(C)(C)C)NC(=O)N[C@H](CC1CCCCC1)C(=O)O | C25H45N3O7
